US09334269B2
To a solution of 2,4-dichloro-5-fluoropyrimidine (1 g, 5.98 mmol) in isopropanol (18 mL, 3 mL/mmol) was added DIPEA (1.6 mL, 8.9 mmol) and 3-amino-N-methylbenzamide (900 mg, 5.98 mmol) and the mixture was heated at 80° C. for 7 h. The reaction mixture was concentrated under reduced pressure and extracted with EtOAc (2×40 mL) and water (2×40 mL). The organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. Purification by column chromatography provided 3-((2-chloro-5-fluoropyrimidin-4-yl)amino)-N-methylbenzamide (800 mg, 50%) as a solid. Observed mass (M+1): 281.1

reactant | 2,4-dichloro-5-fluoropyrimidine | 5.98 mmol, 1 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | DIPEA | 8.9 mmol, 1.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-amino-N-methylbenzamide | 5.98 mmol, 900 mg | NC=1C=C(C(=O)NC)C=CC1 | C8H10N2O
solvent | isopropanol | 18 mL | C(C)(C)O | C3H8O
product | 3-((2-chloro-5-fluoropyrimidin-4-yl)amino)-N-methylbenzamide | 800 mg, 50% | ClC1=NC=C(C(=N1)NC=1C=C(C(=O)NC)C=CC1)F | C12H10ClFN4O
